US04952600
A mixture of 2.87 g of (S)-3-hydroxy-1-pyrrolidinecarboxylic acid, phenylmethyl ester, 2.0 ml of acetic anhydride, 2.0 ml of pyridine and 20 mg of 4-dimethylaminopyridine in 25 ml of dichloromethane was stirred for 72 hours. Methanol (2 ml) and dichloromethane (50 ml) were added. The dichloromethane solution was washed with 40 ml each of 1N hydrochloric acid and 5% sodium bicarbonate solution, dried, filtered and concentrated in vacuo. The residue was purified by chromatography (silica gel), giving 3.1 g of (S)-3-(acetyloxy)-1-pyrrolidinecarboxylic acid, phenylmethyl ester as a colorless oil, [α]D26 =+17° (dichloromethane).

reactant | (S)-3-hydroxy-1-pyrrolidinecarboxylic acid, phenylmethyl ester | 2.87 g | O[C@@H]1CN(CC1)C(=O)OCC1=CC=CC=C1 | C12H15NO3
reactant | acetic anhydride | 2.0 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 2.0 ml | N1=CC=CC=C1 | C5H5N
reactant | Methanol | 2 ml | CO | CH4O
catalyst | 4-dimethylaminopyridine | 20 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | (S)-3-(acetyloxy)-1-pyrrolidinecarboxylic acid, phenylmethyl ester | 3.1 g | C(C)(=O)O[C@@H]1CN(CC1)C(=O)OCC1=CC=CC=C1 | C14H17NO4
